US07507509B2
Preparation of Diethyl 2-hydroxybenzylphosphonate
38.4 g of 2-hydroxybenzylalcohol from TOKYO KASEI KOGYO Co., Ltd. and 80 ml of o-xylene were put in a reaction reservoir having a mixer, a thermometer and a dropping funnel. Under a nitrogen stream, 62.8 g of triethylphosphite were slowly dropped therein at 80° C., and the reaction therein is further performed for 1 hr at the same temperature. Then, the produced ethanol, o-xylene and unreacted triethyl phosphite were removed from the reaction by reduced-pressure distillation to prepare 66 g of 2-diethylhydroxybenzylphosphonate at a yield of 90%, having a boiling point of 120.0° C./1.5 mm Hg.

reactant | 2-hydroxybenzylalcohol | 38.4 g | OC1=C(CO)C=CC=C1 | C7H8O2
reactant | triethylphosphite | 62.8 g | C(C)OP(OCC)OCC | C6H15O3P
solvent | o-xylene | 80 ml | CC=1C=CC=CC1C | C8H10
product | Diethyl 2-hydroxybenzylphosphonate | yield of 90% | OC1=C(CP(OCC)(OCC)=O)C=CC=C1 | C11H17O4P
